US05081123
0.5 g (1.4 mmol) 5-Bromo-8-ethoxalylamino-7-nitroquinoline in 30 ml ethanol was hydrogenated at atm. pressure by using 100 mg (5%) Pt/c as a catalyst. The reaction mixture was filtered and the filtrate was evaporated in vacuo. The residue was stirred with water and the precipitate was filtered off. The crude product was washed with ethanol to give 0.3 g (72%) of 6-Bromo-4-hydroxypyrido[2,3-f]quinoxaline-2,3(1H,4H)-dione. M.p. decomp. MS m/z: 307 (M 20%), 291 (70%), 156 (100%), 128 (70%).

reactant | 5-Bromo-8-ethoxalylamino-7-nitroquinoline | 1.4 mmol, 0.5 g | BrC1=C2C=CC=NC2=C(C(=C1)[N+](=O)[O-])NC(=O)C(=O)OCC | C13H10BrN3O5
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-Bromo-4-hydroxypyrido[2,3-f]quinoxaline-2,3(1H,4H)-dione | 0.3 g, 72% | BrC=1C2=C(C=3NC(C(N(C3C1)O)=O)=O)N=CC=C2 | C11H6BrN3O3
